US05968967
a) Preparation of (1-(4-Cyanophenyl)-2-methylhydrazino)triphenylphosphonium Bromide
A mixture of 78.9 g of 4-cyanophenylhydrazine, 250 g of dibromotriphenylphosphorane, 71.9 g of triethylamine and 1,200 ml of benzene was stirred at 80° C for 30 minutes. The resulting crystals were collected by filtration and then washed with benzene and water successively to give 261.0 g of the title compound as a colorless powder.

reactant | 4-cyanophenylhydrazine | 78.9 g | C(#N)C1=CC=C(C=C1)NN | C7H7N3
reactant | dibromotriphenylphosphorane | 250 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
reactant | triethylamine | 71.9 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 1,200 ml | C1=CC=CC=C1 | C6H6
product | (1-(4-Cyanophenyl)-2-methylhydrazino)triphenylphosphonium Bromide | 261.0 g | [Br-].C(#N)C1=CC=C(C=C1)N(NC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H23N3P.BrH/c1-28-29(23-19-17-22(21-27)18-20-23)30(24-11-5-2-6-12-24,25-13-7-3-8-14-25)26-15-9-4-10-16-26;/h2-20,28H,1H3;1H/q+1;/p-1
